US06509328B1
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-thiazol-2-ylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-thiazol-2-ylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G11) (89 mg, 0.28 mmol) and 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester (Pol. J. Chem. 1978, 25) (74 mg, 0.34 mmol) according to the general procedure K. Obtained as a light yellow solid (129 mg).

reactant | (2-amino-4-thiazol-2-ylethynyl-phenyl)-carbamic acid tert.-butyl ester | 0.28 mmol, 89 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC=1SC=CN1)N)=O | C16H17N3O2S
reactant | 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester | 0.34 mmol, 74 mg | C(C)OC(CC(=O)C1=CC(=CC=C1)C#N)=O | C12H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-thiazol-2-ylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester | 129 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC=1SC=CN1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C26H22N4O4S
